US09376442B2
N-(1-acetylpiperidin-4-yl)-4-(2-ethoxy-5-fluorophenyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-(2-ethoxy-5-fluorophenyl)-6-methyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide (example D.f17) and commercially acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-(2-ethoxy-5-fluorophenyl)-6-methyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)OC1=C(C=C(C=C1)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCNCC2 | C21H24FN5O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-(1-acetylpiperidin-4-yl)-4-(2-ethoxy-5-fluorophenyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)(=O)N1CCC(CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)F)OCC)C | C23H26FN5O3
